US08049016B2
Preparation of ethyl 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxylate
Following the procedure as described in Preparation 13, making variations to replace bromomethyl-2,2-difluorocyclopropane with 4-(trifluoromethyl)benzyl bromide to react with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 92% yield: mp 126-127° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.70 (d, J=8.1 Hz, 2H), 7.51 (d, J=8.1 Hz, 2H), 4.51 (s, 2H), 4.17 (q, J=6.9 Hz, 2H), 4.00 (t, J=8.1 Hz, 2H), 3.47 (t, J=8.1 Hz, 2H), 2.49 (s, 3H), 1.23 (t, J=6.9 Hz, 3H); MS (ES+) m/z 414.1 (M+1).

reactant | bromomethyl-2,2-difluorocyclopropane | BrCC1C(C1)(F)F | C4H5BrF2
reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
product | ethyl 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxylate | 92% yield | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C18H18F3N3O3S
